US04833245
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and cyclopentanol there is obtained cyclopentyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a syrup, 1H-NMR(CDCl3): 1.5-2.1 (8H), 4.2 (s, 4H), 4.67 (broad s, NH), 5.1 (m, OCH), 7.3-7.7 (8H).

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | cyclopentanol | C1(CCCC1)O | C5H10O
product | cyclopentyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OC3CCCC3)=N | C20H22N2O
